US05229379
0.38 g of trimethylbromosilane is added to a solution of 0.41 g of 3-(p-chlorobenzylamino)propyl(tetrahydrofuran-2-yl)phosphinic acid ethyl ester, the mixture is stirred at room temperature for 24 hours, and the volatile constituents are removed under reduced pressure. The oil that remains is taken up in 99% methanol, stirred for 30 minutes at room temperature and again concentrated by evaporation under reduced pressure. Recrystallisation of the solid yellowish residue yields 3-(p-chlorobenzylamino)propyl(tetrahydrofuran-2-yl)phosphinic acid hydrochloride having a melting point of 212°-213°; 1H-NMR spectrum (in CD3OD): δ=7.5 (4H,m), 4.21 (2H,s), 4.03 (1H, ABq), 3.84 (2H, t,d), 3.17 (2H,t), 2.30-1.83 (8H,m); 31P-NMR spectrum (in CD3OD): δ=49.4.

reactant | trimethylbromosilane | 0.38 g | C[Si](Br)(C)C | C3H9BrSi
reactant | 3-(p-chlorobenzylamino)propyl(tetrahydrofuran-2-yl)phosphinic acid ethyl ester | 0.41 g | C(C)OP(=O)(C1OCCC1)CCCNCC1=CC=C(C=C1)Cl | C16H25ClNO3P
product | 3-(p-chlorobenzylamino)propyl(tetrahydrofuran-2-yl)phosphinic acid hydrochloride | Cl.ClC1=CC=C(CNCCCP(O)(=O)C2OCCC2)C=C1 | InChI=1S/C14H21ClNO3P.ClH/c15-13-6-4-12(5-7-13)11-16-8-2-10-20(17,18)14-3-1-9-19-14;/h4-7,14,16H,1-3,8-11H2,(H,17,18);1H
